US08471005B2
[7-(2-Methoxy-phenyl)-pyrrolo[2,1-f][1,2,4]triazin-2-yl]-[5-(4-methyl-piperazin-1-yl)-pyridin-2-yl]-amine
Into a 8-dram vial, 5-(4-Methyl-piperazin-1-yl)-pyridin-2-ylamine (0.154 g, 0.804 mmol), 2-Methanesulfinyl-7-(2-methoxy-phenyl)-pyrrolo[2,1-f][1,2,4]triazine (0.105 g, 0.365 mmol), Cesium fluoride (0.139 g, 0.914 mmol), N,N-Diisopropylethylamine (0.1400 mL, 0.8039 mmol) and tert-Butyl alcohol (2.00 mL, 20.9 mmol) were added. The reaction was heated at 120° C. overnight. LCMS suggested presence of desired product. The reaction mixture was purified via HPLC reverse phase chromatography with 0.1% TFA in Water and 0.1% TFA in ACN. The collected fractions were lyophilized to give [7-(2-Methoxy-phenyl)-pyrrolo[2,1-f][1,2,4]triazin-2-yl]-[5-(4-methyl-piperazin-1-yl)-pyridin-2-yl]-amine as a yellow solid (30 mg, 22%). LCMS (E/I+) 416.18 (M+H). NMR 1H (DMSO-d6)-9.80 (s, 1H), 9.72 (bs, 1H), 9.01 (s, 1H), 7.99 (s, 1H), 7.90 (d, 1H, J=9.58 Hz), 7.80 (d, 1H, J=7.49), 7.53 (d, 1H, J=9.38 Hz), 7.47 (d, 1H, J=7.59 Hz), 7.24 (d, 1H, J=8.04 Hz), 7.14 (t, 1H, J=7.15 Hz), 7.01 (s, 2H), 3.80 (bs, 5H), 3.55 (d, 2H, J=11.72 Hz), 3.19 (q, 2H, J=10.34 Hz), 2.96 (t, 2H, J=11.72 Hz), 2.83 (s, 3H).

reactant | 5-(4-Methyl-piperazin-1-yl)-pyridin-2-ylamine | 0.804 mmol, 0.154 g | CN1CCN(CC1)C=1C=CC(=NC1)N | C10H16N4
reactant | 2-Methanesulfinyl-7-(2-methoxy-phenyl)-pyrrolo[2,1-f][1,2,4]triazine | 0.365 mmol, 0.105 g | CS(=O)C1=NN2C(C=N1)=CC=C2C2=C(C=CC=C2)OC | C14H13N3O2S
reactant | Cesium fluoride | 0.914 mmol, 0.139 g | [F-].[Cs+]
reactant | N,N-Diisopropylethylamine | 0.8039 mmol, 0.1400 mL | C(C)(C)N(C(C)C)CC | C8H19N
reactant | tert-Butyl alcohol | 20.9 mmol, 2.00 mL | C(C)(C)(C)O | C4H10O
product | [7-(2-Methoxy-phenyl)-pyrrolo[2,1-f][1,2,4]triazin-2-yl]-[5-(4-methyl-piperazin-1-yl)-pyridin-2-yl]-amine | COC1=C(C=CC=C1)C1=CC=C2C=NC(=NN21)NC2=NC=C(C=C2)N2CCN(CC2)C | C23H25N7O
